US03971819
A mixture of 3-amino-4-phenoxy-5-sulphamyl-benzoic acid (6 g), n-pentanol (60 ml), and conc. sulphuric acid (0.5 ml) was refluxed for 24 hours. After cooling, the precipitated n-pentyl 3-n-pentylamino-4-phenoxy-5-sulphamyl-benzoate was isolated by filtration and recrystallized from n-pentanol. After drying in vacuo, the compound was obtained with a melting point of 138°-139°C.

reactant | 3-amino-4-phenoxy-5-sulphamyl-benzoic acid | 6 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H12N2O5S
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | n-pentanol | 60 ml | C(CCCC)O | C5H12O
product | n-pentyl 3-n-pentylamino-4-phenoxy-5-sulphamyl-benzoate | C(CCCC)NC=1C=C(C(=O)OCCCCC)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C23H32N2O5S
